US04734125
2.2 ml (0.0275 mol) of anhydrous pyridine and 6.7 g (0.027 mol) of 96.3 percent strength 2,4-dichlorophenoxyacetyl chloride are added successively to 8 g (0.027 mol) of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole (cf. U.S. Pat. No. 4,614,533, supra, in 60 ml of dichloromethane with stirring at 0° C. to 5° C. and the mixture is stirred for 16 hours at room temperature. The mixture is worked up by adding 100 ml of dichloromethane, washing successively with dilute hydrochloric acid, saturated sodium bicarbonate solution and saturated sodium chloride solution, drying the organic phase over magnesium sulphate and removing the solvent in vacuo. 12.7 g (94.3% of theory) of 5-(2,4-dichlorophenoxyacetamido)-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole of melting point 167° C.-180° C. are obtained.

reactant | pyridine | 0.0275 mol, 2.2 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,4-dichlorophenoxyacetyl chloride | ClC1=C(OCC(=O)Cl)C=CC(=C1)Cl | C8H5Cl3O2
reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole | 0.027 mol, 8 g | NC1=CC=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C10H6Cl2F3N3
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-(2,4-dichlorophenoxyacetamido)-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole | 12.7 g, 94.3% | ClC1=C(OCC(=O)NC2=CC=NN2C2=C(C=C(C=C2Cl)C(F)(F)F)Cl)C=CC(=C1)Cl | C18H10Cl4F3N3O2
